US07576215B2
A mixture of (4-cyano-phenyl)-oxo-acetic acid ethyl ester 0.41 g, 2.0 mmol) in 25 mL of 90% formic acid and a large excess of Raney nickel (50% slurry in water) was refluxed for 1 hr. The solid was filtered off and the liquid was concentrated. The crude material was purified by silica gel chromatography (5˜100% ethyl acetate/hexane) to give 0.35 g of (4-formyl-phenyl)-hydroxy-acetic acid ethyl ester as an oil.

reactant | (4-cyano-phenyl)-oxo-acetic acid ethyl ester | 2.0 mmol, 0.41 g | C(C)OC(C(=O)C1=CC=C(C=C1)C#N)=O | C11H9NO3
reactant | formic acid | 25 mL | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
product | (4-formyl-phenyl)-hydroxy-acetic acid ethyl ester | 0.35 g | C(C)OC(C(O)C1=CC=C(C=C1)C=O)=O | C11H12O4
